datasets/10k_Mayr_OG.csv
SMILES Labelled
C1=CC=C(C(C2=CC=CC=C2)[C@@H]2CCC[NH:10]2)C=C1.F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>F[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([NH+:10]2CCC[C@H]2C(C2=CC=CC=C2)C2=CC=CC=C2)([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"CC(C)(C)[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]C(C)(C)C)=[O:23].CC[N+:62](CC)(C1=CC=CC=C1)[BH2-:11][H:10]>>CC(C)(C)[O:33][C:22](=[N:21][N:20]([H:10])[C:41](=[O:42])[O:43]C(C)(C)C)[O-:23].CC[N+:62](CC)(C1=CC=CC=C1)[BH2:11] 10,11=10,20;20,21=21,22;22,23=23"
"C1=C[C:14](=[N+:15]([O-:16])[O-:67])[CH:13]=[CH:12][C:11]1=[O:10].CC1=CC=C([S:32](/[N:21]=[CH:20]/[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1>>CC1=CC=C([S:32]([N-:21][CH:20]([O:10][C:11]2=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:67])C=C2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21"
"CC1(C)[O:72][C:61](=[O:62])[C:10](CC2=CC=C([N+](=O)[O-])C=C2)=[C:11]([O-:12])[O:82]1.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([C:10]2(CC3=CC=C([N+](=O)[O-])C=C3)[C:11](=[O:12])[O:82]C(C)(C)[O:72][C:61]2=[O:62])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CCC(C)[Sn:63](C(C)CC)(C(C)CC)[CH:62](C)[CH:11](C)[H:10].[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1>>CCC(C)[Sn:63](C(C)CC)(C(C)CC)[CH:62](C)[CH+:11]C.[H:10][CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1 10,11=10,20"
"CC(C)(C)[O:94][C:83]([N:12]1[CH:11]=[C:10]([B-:72](F)(F)F)[C:62]2=[C:61]1[CH:66]=[CH:65][CH:64]=[CH:63]2)=[O:84].CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]23CCC(CC2)CC3)[C:22](C)=[O:23])[CH:43]=[CH:44]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([C:10]2([B-:72](F)(F)F)[CH:11]=[N+:12]([C:83](=[O:84])[O:94]C(C)(C)C)[C:61]3=[C:62]2[CH:63]=[CH:64][CH:65]=[CH:66]3)[C:21](C[N+]23CCC(CC2)CC3)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[C:20](=[O:21])CCS1.CC1(C)C(C)(C)[O:62][B-:11](C2=CC=CC=C2)([CH2:10]C2=CC=CC=C2)[O:12]1>>C1=CC=C([CH2:10][C:20]2([O-:21])CCSCC2)C=C1.CC1(C)C(C)(C)[O:62][B-:11](C2=CC=CC=C2)=[O+:12]1 10,11=10,20;12=11,12;20,21=21"
"C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH+:20][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1.[CH:10]1=[CH:11][NH:12][C:62]2=[C:61]1[CH:72]=[CH:73][CH:64]=[CH:63]2>>C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH:20]([CH:10]2[CH:11]=[NH+:12][C:62]4=[C:61]2[CH:72]=[CH:73][CH:64]=[CH:63]4)[C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1 10,11=10,20;12=11,12"
"C1=CC=C([C:23]2=[CH:22][C:21](=[CH:20][C:41]3=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]3)[CH:32]=[C:33](C3=CC=CC=C3)[C:24]2=[O:25])C=C1.CC1=CC=[C:10]([B-:11]([F:62])([F:72])[F:82])O1>>CC1=CC=[C:10]([CH:20]([C:21]2=[CH:22][C:23](C3=CC=CC=C3)=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)O1.[B:11]([F:62])([F:72])[F:82] 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"CC[O:50][C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23].[H:10][Si:11]([CH3:62])([CH3:72])[C:82]1=[CH:83][CH:84]=[C:85]([Cl:86])[CH:93]=[CH:94]1>>CC[O:50][C:22](=[CH:21][CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23].[Si+:11]([CH3:62])([CH3:72])[C:82]1=[CH:83][CH:84]=[C:85]([Cl:86])[CH:93]=[CH:94]1 10,11=10,20;20,21=21,22;22,23=23"
CC[O:92][C:61]([CH-:10][C:71]1=[CH:72][C:73](Cl)=[CH:74][CH:83]=[CH:82]1)=[O:62].[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH2+:20])[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>CC[O:92][C:61]([CH:10]([CH2:20][C:31]12C3[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]32(C#[O+])(C#[O+])C#[O+])[C:71]1=[CH:72][C:73](Cl)=[CH:74][CH:83]=[CH:82]1)=[O:62] 10=20
"CC(C)[OH:10].CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([OH+:10]C(C)C)[C:21]2=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23"
"COC1=CC(CC2C(=O)N(C)C(C)(C)/[N+:23]2=[CH:22]\[CH:21]=[CH:20]\[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=CC(OC)=C1OC.C[N:12]([C:11]1=[CH:10]CCC1)[C:63]1=[CH:64][CH:65]=[CH:66][CH:75]=[CH:74]1>>COC1=CC(CC2C(=O)N(C)C(C)(C)[N:23]2[CH:22]=[CH:21][CH:20]([CH:10]2CCC[C:11]2=[N+:12](C)[C:63]2=[CH:64][CH:65]=[CH:66][CH:75]=[CH:74]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=CC(OC)=C1OC 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:33][C:22]([C:21](C)=[CH2:20])=[O:23].C[Si:11]1([H:10])CCC1>>CC[O:33][C:22](=[C:21](C)[CH2:20][H:10])[O-:23].C[Si+:11]1CCC1 10,11=10,20;20,21=21,22;22,23=23"
